US06809199B2
To a stirred solution of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)carbonyl]-1,4-dihydro-2H-3,1-benzoxazin-2-one (31 mg, 0.055 mmol, 1 eq) in THF (0.1 mL) at 0° C. under nitrogen was added a solution of borane in THF (0.1 mL of a 1M solution, 0.1 mmol, 1.8 eq). The mixture was stirred 5 min at 0° C. and then the cooling bath was removed. The mixture was brought to and maintained at reflux for 2 h (twice added 0.1 mL of THF due to solvent loss). The mixture was cooled. To the reaction was added 6N aqueous HCl (0.1 mL) and the mixture was heated in a 70° C. oil bath for 15 min. The mixture was cooled and diluted with CH2Cl2 and aqueous NaHCO3. Aqueous 2N NaOH was added to increase basicity. Mixed and separated the layers. The aqueous layer was back extracted 2× with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated. The product was purified by flash column chromatography on silica gel giving 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)methyl]-1,4-dihydro-2H-3,1-benzoxazin-2-one. Mass spectrum ESI) 544.2 (M+1); 546.2 (M+3).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)carbonyl]-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.055 mmol, 31 mg, 1 eq | ClC1=C(C=CC=C1)C1=CC(=CC2=C1COC(N2C2=C(C=CC=C2Cl)Cl)=O)C(=O)N2CCN(CC2)C(C)C | C28H26Cl3N3O3
reactant | borane | B | BH3
solvent | THF | 0.1 mL | C1CCOC1 | C4H8O
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)methyl]-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC1=C(C=CC=C1)C1=CC(=CC2=C1COC(N2C2=C(C=CC=C2Cl)Cl)=O)CN2CCN(CC2)C(C)C | C28H28Cl3N3O2
